US06491989B1
5-Hexyloxy-2-[1,1,6,7-tetrafluoro-5-(3-propyloxiranylmethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]pyrimidine
From 2,3,5,5-tetrafluoro-6-(5-hexyloxypyrimidin-2-yl)-5,6,7,8-tetrahydronaphthalen-1-ol and (3-propyloxiranyl)methanol by means of the Mitsunobu reaction.

reactant | 2,3,5,5-tetrafluoro-6-(5-hexyloxypyrimidin-2-yl)-5,6,7,8-tetrahydronaphthalen-1-ol | FC1=C(C=2CCC(C(C2C=C1F)(F)F)C1=NC=C(C=N1)OCCCCCC)O | C20H22F4N2O2
reactant | (3-propyloxiranyl)methanol | C(CC)C1C(O1)CO | C6H12O2
product | 5-Hexyloxy-2-[1,1,6,7-tetrafluoro-5-(3-propyloxiranylmethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1C(C2=CC(=C(C(=C2CC1)OCC1OC1CCC)F)F)(F)F | C26H32F4N2O3
